US08044062B2
To a solution of [4-(ethylamino)-6-methyl-2-(methylthio)pyrimidin-5-yl]methanol (41.0 g) in chloroform (4000 mL) was added manganese oxide (125 g, 1.4 mole) and stirred for 4 h at room temperature. More manganese oxide was added until the disappearance of alcohol compound was observed. The reaction mixture was filtered through Celite and washed with some chloroform and evaporated all organic solvents to give 38 g (92% yield) of 4-(ethylamino)-6-methyl-2-(methylthio)pyrimidine-5-carbaldehyde as a colorless solid, which was used without purification in the next step.

reactant | [4-(ethylamino)-6-methyl-2-(methylthio)pyrimidin-5-yl]methanol | 41.0 g | C(C)NC1=NC(=NC(=C1CO)C)SC | C9H15N3OS
solvent | chloroform | 4000 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese oxide | 1.4 mole, 125 g | [O-2].[Mn+2]
product | 4-(ethylamino)-6-methyl-2-(methylthio)pyrimidine-5-carbaldehyde | 38 g, 92% yield | C(C)NC1=NC(=NC(=C1C=O)C)SC | C9H13N3OS
